US06359134B1
4-Methyl-2-(4-pyridyl)thiazol-5-carboxylic acid
A mixture of ethyl 4-methyl-2-(4-pyridyl)thiazole-5-carboxylate (744 mg), 1 N NaOH (4 ml) and tetrahydrofuran-ethanol (1:1, 6 ml) was stirred at room temperature for 1 hour and diluted with water, to which was added 1 N hydrochloric acid (4 ml) to give the title compound as crystals (595 mg, 90.2%).

reactant | ethyl 4-methyl-2-(4-pyridyl)thiazole-5-carboxylate | 744 mg | CC=1N=C(SC1C(=O)OCC)C1=CC=NC=C1 | C12H12N2O2S
reactant | NaOH | 1 N, 4 ml | [OH-].[Na+]
reactant | tetrahydrofuran-ethanol | 6 ml | O1C(CCC1)CCO | C6H12O2
reactant | hydrochloric acid | 1 N, 4 ml | Cl | ClH
solvent | water | O | H2O
product | 4-Methyl-2-(4-pyridyl)thiazol-5-carboxylic acid | 595 mg, 90.2% | CC=1N=C(SC1C(=O)O)C1=CC=NC=C1 | C10H8N2O2S
